US07176242B2
To a solution of 1-[butyl(methyl)amino]isoquinoline-7-carboxylic acid (130 mg, 0.5 mmol) and N,N-diisopropylethylamine (525 μL, 3.0 mmol) in methylene chloride (6.25 mL) was added HBTU (190 mg, 0.5 mmol) and the reaction mixture was stirred for 0.5 h. (2R,3S)-3-Amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol (174 mg, 0.42 mmol) was added in one portion and the reaction mixture was stirred at room temperature 18 h. The reaction mixture was diluted with methylene chloride and washed with saturated sodium bicarbonate, and saturated sodium chloride, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash chromatography (silica, 1–5% methanol in chloroform) gave 1-[butyl(methyl)amino]-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}isoquinoline-7-carboxamide

reactant | 1-[butyl(methyl)amino]isoquinoline-7-carboxylic acid | 0.5 mmol, 130 mg | C(CCC)N(C1=NC=CC2=CC=C(C=C12)C(=O)O)C | C15H18N2O2
reactant | N,N-diisopropylethylamine | 3.0 mmol, 525 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HBTU | 0.5 mmol, 190 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-Amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol | 0.42 mmol, 174 mg | N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
solvent | methylene chloride | 6.25 mL | C(Cl)Cl | CH2Cl2
product | 1-[butyl(methyl)amino]-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}isoquinoline-7-carboxamide | C(CCC)N(C1=NC=CC2=CC=C(C=C12)C(=O)N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F)C | C34H40F2N4O2
